US05047411
Potassium 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-benzoxazolesulfonate (1.10 g) was added to a mixture of guanidine hydrochloride (257 mg) and potassium hydroxide (150 mg) in N,N-dimethylformamide (12 ml). After being stirred for 4 hours at ambient temperature, the reaction mixture was mixed with water (110 ml) and ethyl acetate (20 ml). The resulting precipitate was collected, washed with water and recrystallized from ethanol to give 6-[2-(3,7-dimethylimidazo[1,2-a]-pyridin-2-yl)ethyl]-2-guanidinobenzoxazole (0.31 g).

reactant | Potassium 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-benzoxazolesulfonate | 1.10 g | CC1=C(N=C2N1C=CC(=C2)C)CCC2=CC1=C(N=C(O1)S(=O)(=O)[O-])C=C2.[K+]
reactant | guanidine hydrochloride | 257 mg | Cl.NC(=N)N
reactant | potassium hydroxide | 150 mg | [OH-].[K+]
reactant | water | 110 ml | O | H2O
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 6-[2-(3,7-dimethylimidazo[1,2-a]-pyridin-2-yl)ethyl]-2-guanidinobenzoxazole | 0.31 g | CC1=C(N=C2N1C=CC(=C2)C)CCC2=CC1=C(N=C(O1)NC(=N)N)C=C2 | C19H20N6O
